### PR TITLE
feat(Computability/ContextFreeGrammar): closure under union

### PR DESCRIPTION
**Pull request by madvorak**
- [x] depends on: #15895

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by madvorak** [comment]
Please check whether (line 195 now)
```
def Language.IsContextFree (L : Language T) : Prop :=
  ∃ g : ContextFreeGrammar.{uT} T, g.language = L
```
or
```
def Language.IsContextFree (L : Language T) : Prop :=
  ∃ g : ContextFreeGrammar.{uN} T, g.language = L
```
is correct. I don't understand the universe-polymorphic stuff.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 1]
```diff
@@ -253,3 +253,181 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+lemma LiftedContextFreeGrammar.sink_produces {G : LiftedContextFreeGrammar T}
+    {w₁ w₂ : List (Symbol T G.g.NT)} (hG : G.g.Produces w₁ w₂) (hw₁ : GoodString w₁) :
+    G.g₀.Produces (Symbol.sinkString G.sinkNT w₁) (Symbol.sinkString G.sinkNT w₂) ∧
+      GoodString w₂ := by
+  rcases hG with ⟨r, rin, hr⟩
+  rcases hr.exists_parts with ⟨u, v, bef, aft⟩
+  rcases G.preimage_of_rules r (by
+      constructor
+      · exact rin
+      rw [bef] at hw₁
```
Comment (Rida-Hamadani) [inline Mathlib/Computability/ContextFreeGrammar.lean:366]: I suggest moving ` rw [bef] at hw₁` to line 363 (before the last `rcases`), and removing it here and at line 401, because `hw₁` is never used without rewriting `bef` at it.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 2]
```diff
@@ -253,3 +253,181 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+
+lemma LiftedContextFreeGrammar.sink_produces {G : LiftedContextFreeGrammar T}
+    {w₁ w₂ : List (Symbol T G.g.NT)} (hG : G.g.Produces w₁ w₂) (hw₁ : GoodString w₁) :
+    G.g₀.Produces (Symbol.sinkString G.sinkNT w₁) (Symbol.sinkString G.sinkNT w₂) ∧
+      GoodString w₂ := by
+  rcases hG with ⟨r, rin, hr⟩
+  rcases hr.exists_parts with ⟨u, v, bef, aft⟩
+  rcases G.preimage_of_rules r (by
+      constructor
+      · exact rin
```
Comment (Rida-Hamadani) [inline Mathlib/Computability/ContextFreeGrammar.lean:365]:
```suggestion
      refine ⟨rin, ?_⟩
```
maybe moving the `obtain` before this is nicer, but I'm not sure!

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 3]
```diff
@@ -253,3 +253,181 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+        apply List.mem_append_right
+        rw [List.mem_singleton]
+      use n₀
+      simpa [G.sinkNT_inverse_liftNT r.input ⟨n₀, hn₀⟩, Option.map_some'] using
+        congr_arg (Option.map G.liftNT) hn₀.symm)
+    with ⟨r₀, hr₀, hrr₀⟩
+  constructor
+  · use r₀
+    constructor
+    · exact hr₀
```
Comment (Rida-Hamadani) [inline Mathlib/Computability/ContextFreeGrammar.lean:379]:
```suggestion
    refine ⟨hr₀, ?_⟩
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 4]
```diff
@@ -253,3 +253,181 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+    rw [ContextFreeRule.rewrites_iff]
+    use Symbol.sinkString G.sinkNT u, Symbol.sinkString G.sinkNT v
+    have correct_inverse : sinkSymbol G.sinkNT ∘ liftSymbol G.liftNT = Option.some := by
+      ext1 x
+      cases x
+      · rfl
+      rw [Function.comp_apply]
+      simp only [sinkSymbol, liftSymbol, Option.map_eq_some', Symbol.nonterminal.injEq]
+      rw [exists_eq_right]
+      apply G.sinkNT_liftNT
```
Comment (Rida-Hamadani) [inline Mathlib/Computability/ContextFreeGrammar.lean:389]:
```suggestion
      rw [Function.comp_apply, sinkSymbol, liftSymbol, Option.map_eq_some']
      simp only [Symbol.nonterminal.injEq, exists_eq_right, G.sinkNT_liftNT]
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 5]
```diff
@@ -253,3 +253,181 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  rcases hr.exists_parts with ⟨u, v, bef, aft⟩
+  rcases G.preimage_of_rules r (by
+      constructor
+      · exact rin
+      rw [bef] at hw₁
+      obtain ⟨n₀, hn₀⟩ : GoodLetter (Symbol.nonterminal r.input) := by
+        apply hw₁ (Symbol.nonterminal r.input)
+        apply List.mem_append_left
+        apply List.mem_append_right
+        rw [List.mem_singleton]
```
Comment (Rida-Hamadani) [inline Mathlib/Computability/ContextFreeGrammar.lean:371]:
```suggestion
      obtain ⟨n₀, hn₀⟩ : GoodLetter (Symbol.nonterminal r.input) := by apply hw₁; simp
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 6]
```diff
@@ -253,3 +254,454 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+    | head =>
+      left
+      exact in_left_of_in_union hg
+    | tail _ hr' =>
+      cases hr' with
+      | head =>
+        right
+        exact in_right_of_in_union hg
+      | tail _ hr'' =>
+        exfalso
```
[the remark this answers is not in the document]
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:691]: I know. However, skipping `exfalso` obfuscates the intention in given part of the proof.

[the remark this answers is not in the document]
Comment (Rida-Hamadani) [reply Mathlib/Computability/ContextFreeGrammar.lean:691]: Ah I see, sorry for the noise and thanks for clarifying!

[the remark this answers is not in the document]
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:691]: It's better to point out something (to make sure it is intentional) even if no code change results from it.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 7]
```diff
@@ -253,3 +254,454 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  have deri_start :
+    (ContextFreeGrammar.union g₁ g₂).Derives [Symbol.nonterminal none]
+      [Symbol.nonterminal (some (Sum.inr g₂.initial))] := by
+    refine ContextFreeGrammar.Produces.single
+      ⟨⟨none, [Symbol.nonterminal (some (Sum.inr g₂.initial))]⟩,
+        List.mem_cons_of_mem _ (List.mem_cons_self ..), ?_⟩
+    rw [ContextFreeRule.rewrites_iff]
+    use [], []
+    simp
+  exact deri_start.trans (Symbol.liftString_all_terminals g₂g.liftNT w ▸ g₂g.lift_derives hw)
```
Comment (Rida-Hamadani) [inline Mathlib/Computability/ContextFreeGrammar.lean:625]:
```suggestion
private lemma in_union_of_in_right (hw : w ∈ g₂.language) :
    w ∈ (ContextFreeGrammar.union g₁ g₂).language :=
  have deri_start :
    (ContextFreeGrammar.union g₁ g₂).Derives [Symbol.nonterminal none]
      [Symbol.nonterminal (some (Sum.inr g₂.initial))] := by
    refine ContextFreeGrammar.Produces.single
      ⟨⟨none, [Symbol.nonterminal (some (Sum.inr g₂.initial))]⟩,
        List.mem_cons_of_mem _ (List.mem_cons_self ..), ?_⟩
    rw [ContextFreeRule.rewrites_iff]
    use [], []
    simp
  deri_start.trans (Symbol.liftString_all_terminals g₂g.liftNT w ▸ g₂g.lift_derives hw)
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 8]
```diff
@@ -253,3 +254,454 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+    w ∈ (ContextFreeGrammar.union g₁ g₂).language := by
+  have deri_start :
+    (ContextFreeGrammar.union g₁ g₂).Derives [Symbol.nonterminal none]
+      [Symbol.nonterminal (some (Sum.inl g₁.initial))] := by
+    refine ContextFreeGrammar.Produces.single
+      ⟨⟨none, [Symbol.nonterminal (some (Sum.inl g₁.initial))]⟩, List.mem_cons_self .., ?_⟩
+    rw [ContextFreeRule.rewrites_iff]
+    use [], []
+    simp
+  exact deri_start.trans (Symbol.liftString_all_terminals g₁g.liftNT w ▸ g₁g.lift_derives hw)
```
Comment (Rida-Hamadani) [inline Mathlib/Computability/ContextFreeGrammar.lean:612]:
```suggestion
private lemma in_union_of_in_left (hw : w ∈ g₁.language) :
    w ∈ (ContextFreeGrammar.union g₁ g₂).language :=
  have deri_start :
    (ContextFreeGrammar.union g₁ g₂).Derives [Symbol.nonterminal none]
      [Symbol.nonterminal (some (Sum.inl g₁.initial))] := by
    refine ContextFreeGrammar.Produces.single
      ⟨⟨none, [Symbol.nonterminal (some (Sum.inl g₁.initial))]⟩, List.mem_cons_self .., ?_⟩
    rw [ContextFreeRule.rewrites_iff]
    use [], []
    simp
  deri_start.trans (Symbol.liftString_all_terminals g₁g.liftNT w ▸ g₁g.lift_derives hw)
```

**Review by Rida-Hamadani — APPROVED** [review]
LGTM

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 8 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:612]: Don't you want to extract `deri_start` to a separate lemma?

Comment (Rida-Hamadani) [reply Mathlib/Computability/ContextFreeGrammar.lean:612]: Good point, yes!

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:612]: You can try to prove `deri_start` only once and use it twice!

Comment (Rida-Hamadani) [reply Mathlib/Computability/ContextFreeGrammar.lean]: When I extracted `deri_start`, lean complaint about a type mismatch. Is this due to some weird type inference?

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean]: I'll fix it.

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean]: Well, you didn't generalized it. You just copied the statement for `g₁.initial` which cannot work in the `g₂.language` lemma. I will require some deeper refactoring, which I don't have time for now.

Comment (Rida-Hamadani) [reply Mathlib/Computability/ContextFreeGrammar.lean]: After discussing this with Martin on Zulip, we concluded that it is best to leave this minor duplication. The code needed to avoid it would be complex and not useful for anything else.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 9]
```diff
@@ -253,3 +254,453 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+        exact impossible_rule huv hr''
+
+lemma ContextFreeGrammar.mem_union_language_iff_mem_or_mem :
+    w ∈ (ContextFreeGrammar.union g₁ g₂).language ↔ w ∈ g₁.language ∨ w ∈ g₂.language :=
+  ⟨in_language_of_in_union, fun hw => hw.elim in_union_of_in_left in_union_of_in_right⟩
+
+end union_aux
+
+/-- The class of context-free languages is closed under union. -/
+theorem Language.IsContextFree.union (L₁ L₂ : Language T) :
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:700]:
```suggestion
theorem Language.IsContextFree.union {L₁ L₂ : Language T} :
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 10]
```diff
@@ -253,3 +254,453 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+      cases hr' with
+      | head =>
+        right
+        exact in_right_of_in_union hg
+      | tail _ hr'' =>
+        exfalso
+        exact impossible_rule huv hr''
+
+lemma ContextFreeGrammar.mem_union_language_iff_mem_or_mem :
+    w ∈ (ContextFreeGrammar.union g₁ g₂).language ↔ w ∈ g₁.language ∨ w ∈ g₂.language :=
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:694]:
```suggestion
@[simp]
lemma ContextFreeGrammar.language_union :
    (g₁.union g₂).language = g₁.language ∪ g₂.language :=
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 11]
```diff
@@ -253,3 +254,456 @@ theorem Language.IsContextFree.reverse (L : Language T) :
   fun ⟨g, hg⟩ => ⟨g.reverse, hg ▸ Set.ext g.mem_reverse_language_iff_reverse_mem_language⟩
 
 end closure_reversal
+
+section lift_sink
+
+/- This section contains only auxilliary constructions that will shorten upcoming proofs of
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:260]:
```suggestion
/- This section contains only auxiliary constructions that will shorten upcoming proofs of
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 12]
```diff
@@ -253,3 +254,456 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+closure properties. When combining several grammars together, we usually want to take a sum type of
+their nonterminal types and lift respective nonterminals to this sum type. We subsequently show
+that the resulting grammar preserves derivations of those strings that may contain any terminals but
+only the proper nonterminals. The lifting operation must be injective. The sinking operation must be
+injective on those symbols where it is defined. -/
+
+/-- Lifting `Symbol` to a larger nonterminal type. -/
+def liftSymbol {N₀ N : Type*} (liftN : N₀ → N) : Symbol T N₀ → Symbol T N
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:268]: Shouldn't that be `Symbol.map`?

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 13]
```diff
@@ -253,3 +254,456 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  | Symbol.terminal t => Symbol.terminal t
+  | Symbol.nonterminal n => Symbol.nonterminal (liftN n)
+
+/-- Sinking `Symbol` from a larger nonterminal type; may return `none`. -/
+def sinkSymbol {N₀ N : Type*} (sinkN : N → Option N₀) : Symbol T N → Option (Symbol T N₀)
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:273]: and here, following `List`, this should be `Symbol.filterMap`, or alternatively `Symbol.reduceOption ∘ Symbol.map sinkN`

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 14]
```diff
@@ -253,3 +254,456 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  | Symbol.terminal t => some (Symbol.terminal t)
+  | Symbol.nonterminal n => Option.map Symbol.nonterminal (sinkN n)
+
+/-- Lifting `List Symbol` to a larger nonterminal type. -/
+def Symbol.liftString {N₀ N : Type*} (liftN : N₀ → N) :
+    List (Symbol T N₀) → List (Symbol T N) :=
+  List.map (liftSymbol liftN)
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:280]: I don't think this definition should exist

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 12 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:268]: Don't we have too many `.map`s already?

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 13 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:273]: I am a bit worried that `Symbol.map` and `Symbol.filterMap` will make it look like they are both intended to be used in the same direction. The intention here is that they are used as almost inverses.

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 14 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:280]: Would you delete `Symbol.sinkString` as well?

Comment (YaelDillies) [reply Mathlib/Computability/ContextFreeGrammar.lean:280]: Yes, similarly

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 15]
```diff
@@ -253,3 +254,447 @@ theorem Language.IsContextFree.reverse (L : Language T) :
   fun ⟨g, hg⟩ => ⟨g.reverse, hg ▸ Set.ext g.mem_reverse_language_iff_reverse_mem_language⟩
 
 end closure_reversal
+
+section lift_sink
+
+/- This section contains only auxiliary constructions that will shorten upcoming proofs of
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:260]: I think that's worth being in the docs
```suggestion
/-! This section contains only auxiliary constructions that will shorten upcoming proofs of
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 16]
```diff
@@ -253,3 +254,447 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+closure properties. When combining several grammars together, we usually want to take a sum type of
+their nonterminal types and lift respective nonterminals to this sum type. We subsequently show
+that the resulting grammar preserves derivations of those strings that may contain any terminals but
+only the proper nonterminals. The lifting operation must be injective. The sinking operation must be
+injective on those symbols where it is defined. -/
+
+/-- Lifting `Symbol` to a larger nonterminal type. -/
+def Symbol.map {N₀ N : Type*} (liftN : N₀ → N) : Symbol T N₀ → Symbol T N
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:268]: Even if that's how you use it, there is no notion of `N` being bigger than `N₀` here, right? Also this is not a lifting operation. Mind clarifying the docstring?

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 17]
```diff
@@ -253,3 +254,447 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  | Symbol.terminal t => Symbol.terminal t
+  | Symbol.nonterminal n => Symbol.nonterminal (liftN n)
+
+/-- Sinking `Symbol` from a larger nonterminal type; may return `none`. -/
+def Symbol.filterMap {N₀ N : Type*} (sinkN : N → Option N₀) : Symbol T N → Option (Symbol T N₀)
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:273]: Same here. And I'm not sure anyone would know what "sinking" means here

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 18]
```diff
@@ -253,3 +254,447 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  /-- Mapping nonterminals from the bigger type to the smaller type. -/
+  sinkNT : g.NT → Option g₀.NT
+  /-- The former map is injective. -/
+  lift_inj : Function.Injective liftNT
+  /-- The latter map is injective where defined. -/
+  sink_inj : ∀ x y, sinkNT x = sinkNT y → x = y ∨ sinkNT x = none
+  /-- The two mappings are essentially inverses. -/
+  sinkNT_liftNT : ∀ n₀ : g₀.NT, sinkNT (liftNT n₀) = some n₀
+  /-- Each rule of the smaller grammar has a corresponding rule in the bigger grammar. -/
+  corresponding_rules : ∀ r : ContextFreeRule T g₀.NT, r ∈ g₀.rules → r.lift liftNT ∈ g.rules
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:299]: That's not a very descriptive field name. Maybe
```suggestion
  lift_mem_rules : ∀ r : ContextFreeRule T g₀.NT, r ∈ g₀.rules → r.lift liftNT ∈ g.rules
```
?

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 19]
```diff
@@ -253,3 +254,447 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  /-- Each rule of the bigger grammar whose input nonterminal the smaller grammar recognizes
+      has a corresponding rule in the smaller grammar. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:301]:
```suggestion
has a corresponding rule in the smaller grammar. -/
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 20]
```diff
@@ -253,3 +254,447 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  preimage_of_rules :
+    ∀ r : ContextFreeRule T g.NT,
+      (r ∈ g.rules ∧ ∃ n₀ : g₀.NT, liftNT n₀ = r.input) →
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:304]: Can you eliminate the `And` and `Exists`?
```suggestion
      r ∈ g.rules → ∀ n₀ : g₀.NT → liftNT n₀ = r.input→
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 21]
```diff
@@ -253,3 +254,447 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+
+/-- Lifting `ContextFreeRule` to a larger nonterminal type. -/
+def ContextFreeRule.lift {N₀ N : Type*} (r : ContextFreeRule T N₀) (liftN : N₀ → N) :
+    ContextFreeRule T N :=
+  ⟨liftN r.input, r.output.map (Symbol.map liftN)⟩
+
+/-- Lifting `ContextFreeGrammar` to a larger nonterminal type. -/
+structure LiftedContextFreeGrammar (T : Type uT) where
+  /-- The smaller grammar. -/
+  g₀: ContextFreeGrammar.{uN} T
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:285]:
```suggestion
  g₀ : ContextFreeGrammar.{uN} T
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 22]
```diff
@@ -253,3 +254,447 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  | Symbol.terminal t => some (Symbol.terminal t)
+  | Symbol.nonterminal n => Option.map Symbol.nonterminal (sinkN n)
+
+/-- Lifting `ContextFreeRule` to a larger nonterminal type. -/
+def ContextFreeRule.lift {N₀ N : Type*} (r : ContextFreeRule T N₀) (liftN : N₀ → N) :
+    ContextFreeRule T N :=
+  ⟨liftN r.input, r.output.map (Symbol.map liftN)⟩
+
+/-- Lifting `ContextFreeGrammar` to a larger nonterminal type. -/
+structure LiftedContextFreeGrammar (T : Type uT) where
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:283]: Your docstring sounds like `LiftedContextFreeGrammar` is an operation, or it's really not. Mind clarifying the docstring?

**Review by YaelDillies — COMMENTED** [review]
It really feels like this PR contains two things:
* Maps of symbols and grammar lifting
* Closure under union

If you agree, could you split the PR accordingly?

EDIT: This is literally what your PR description says. Please split up PRs when you know they are made of several things! No need to wait for us to tell you to split it.

**Comment by madvorak** [comment]
> It really feels like this PR contains two things:
> 
> * Maps of symbols and grammar lifting
> * Closure under union
> 
> If you agree, could you split the PR accordingly?
> 
> EDIT: This is literally what your PR description says. Please split up PRs when you know they are made of several things! No need to wait for us to tell you to split it.

I mean, the latter proves that the former is done right.
Without the closure under union, you will have tp check everything manually that it is done in a way that will allow later proofs to be simple.

**Comment by YaelDillies** [comment]
> I mean, the latter proves that the former is done right.

It's perfectly fine to justify the design decisions made in PR A by pointing to PR B which depends on A.

**Comment by madvorak** [comment]
> 
> It's perfectly fine to justify the design decisions made in PR A by pointing to PR B which depends on A.

All right, I'll split it then.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 23]
```diff
@@ -253,3 +254,447 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  /-- The smaller grammar. -/
+  g₀: ContextFreeGrammar.{uN} T
+  /-- The bigger grammar. -/
+  g : ContextFreeGrammar.{uN} T
```
[the remark this answers is not in the document]
Comment (Rida-Hamadani) [reply Mathlib/Computability/ContextFreeGrammar.lean]: Maybe `sourceGrammar`/`originalGrammar` and `liftedGrammar`?

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 16 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:268]: I mean, I require injective map from `N₀` to `N` so we can say that `N` is bigger. However, I welcome your suggestions for reformulation.

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 17 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:273]: Yeah, the docstrings need change.

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 22 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:283]: Yeah. I should definitely rephrase it as a structure that represents a pair of grammars over the same terminal alphabet such that (...).

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 16 above)
Comment (YaelDillies) [reply Mathlib/Computability/ContextFreeGrammar.lean:268]: Where do you require that it's injective? Certainly not in the definition
